US06143760
A mixture of 2-ethoxy-5-nitropyridine (3.60 g) and 10% Pd/C (360 mg) in ethanol (40 mL) was placed in a Paar bottle and shaken under hydrogen (50 PSI) for 16 h. The mixture was filtered through Celite using dichloromethane and concentrated to give 2.892 g of 2-ethoxy-5-aminopyridine as a gold solid.

reactant | 2-ethoxy-5-nitropyridine | 3.60 g | C(C)OC1=NC=C(C=C1)[N+](=O)[O-] | C7H8N2O3
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | Pd/C | 360 mg | [Pd] | Pd
product | 2-ethoxy-5-aminopyridine | 2.892 g | C(C)OC1=NC=C(C=C1)N | C7H10N2O
